US08067408B2
To a clear solution of 1,1-dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate (923 mg, 3.01 mmol) in DCM (10 mL) was added 4N HCl in dioxane (3 mL). Solid precipitated out from the solution after 30 min. The mixture was stirred at RT for another 1 h. It was then concentrated under vacuum to get rid of solvent. The resulting residue was re-dissolved in DCM. Et3N (1.5 mL, 10.3 mmol) was added followed by 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-carbonyl]benzoic acid (1000 mg, 2.05 mmol) and HBTU (933 mg, 2.46 mmol). The mixture was stirred at RT overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were then washed with water followed by the brine wash. The organic layer was then concentrated under vacuum to give a crude residue. It was then purified with CombiFlash chromatography, eluting with 0 to 10% methanol in DCM to obtain N-[(5-bromo-2-methylphenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide as a solid (1.4 g, 98%). LC-MS m/z 634 (M+H)+.

reactant | 1,1-dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate | 3.01 mmol, 923 mg | BrC=1C=CC(=C(C1)CNC(OC(C)(C)C)=O)C | C13H18BrNO2
reactant | HCl | 4N | Cl | ClH
reactant | Et3N | 10.3 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-carbonyl]benzoic acid | 2.05 mmol, 1000 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | HBTU | 2.46 mmol, 933 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-[(5-bromo-2-methylphenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 1.4 g, 98% | BrC=1C=CC(=C(C1)CN(C(=O)C1=CC(=CC=C1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)C | C32H37BrN6O3
